US04876046
Preparation of β-n-Hexyladipic Acid
A stirred suspension of 4-n-hexylphenol (972 g; 5.46 mol), 61.7 g of 5% rhodium on carbon catalyst (46.0 g of Alfa Chemical Co. lot 063081 and 17.7 g of MCB Chemicals lot A12M04), HOAc (21 ml), and MeOH (5.0 L) was hydrogenated in a 5 gallon autoclave (100 psi) at 35°-55° until 73% of theoretical H2 was consumed. A sample was withdrawn and NMR and GC tests showed that a small amount of the hexylphenol remained. Hydrogenation was continued until a total of 78% of theoretical H2 was consumed. The catalyst was filtered off, and the clear filtrate was concentrated in vacuo to a clear oil, 1065 g (106%); IR (neat) cm-1 3400, (OH) 1715 (carbonyl); NMR (CDCl3) no aromatic absorbance was observed.

reactant | 4-n-hexylphenol | 5.46 mol, 972 g | C(CCCCC)C1=CC=C(C=C1)O | C12H18O
reactant | HOAc | 21 ml | CC(=O)O | C2H4O2
reactant | MeOH | 5.0 L | CO | CH4O
catalyst | rhodium on carbon | 61.7 g | [Rh] | Rh
product | β-n-Hexyladipic Acid | C(CCCCC)C(CC(=O)O)CCC(=O)O | C12H22O4
